US07741355B2
2-Isopropyl-5-methyl-cyclohexanecarboxylic acid (2-amino-2-phenyl-ethyl)-amide
A 25 mL microwave reaction vessel equipped with a stir bar was charged with 2-isopropyl-5-methyl-cyclohexanecarboxylic acid (2-oxo-2-phenyl-ethyl)-amide (80 mg) and ammonia (1.5 mL, 7 M in methanol). A drop of acetic acid and NaCNBH3 (20 mg) were added to the reaction mixture and subjected to microwave at 80° C. for 80 min. The residue was taken up in ethyl acetate (30 mL) and saturated NaHCO3 (aq.) (30 mL). The heterogeneous mixture was transferred to a separatory funnel where the aqueous phase was separated and re-extracted with ethyl acetate (2×10 mL). The organic phases were combined and washed with sat NaHCO3 (3×10 mL), H2O (10 mL), brine (10 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to give a solid (75 mg).

reactant | 2-isopropyl-5-methyl-cyclohexanecarboxylic acid (2-oxo-2-phenyl-ethyl)-amide | 80 mg | O=C(CNC(=O)C1C(CCC(C1)C)C(C)C)C1=CC=CC=C1 | C19H27NO2
reactant | ammonia | 7 M, 1.5 mL | N | H3N
reactant | NaCNBH3 | 20 mg | [BH3-]C#N.[Na+]
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Isopropyl-5-methyl-cyclohexanecarboxylic acid (2-amino-2-phenyl-ethyl)-amide | 75 mg | NC(CNC(=O)C1C(CCC(C1)C)C(C)C)C1=CC=CC=C1 | C19H30N2O
